US05356918
N-(2-Nitrooxyethyl)-5-(4-methoxyphenyl)-2- oxothiazolidine-4-carboxamide (Compound No. 1-14)
A procedure similar to that described in Example 1 was repeated, but using 401 mg of N-(2-nitrooxyethyl)amine nitrate and 500 mg of 5-(4-methoxyphenyl)-2-oxothiazolidine-4-carboxylic acid, to obtain 408 mg of the title compound as colorless crystals, melting at 142°-143° C. (after recrystallization from methylene chloride).

reactant | N-(2-nitrooxyethyl)amine nitrate | 401 mg | [N+](=O)(O)[O-].[N+](=O)([O-])OCCN
reactant | 5-(4-methoxyphenyl)-2-oxothiazolidine-4-carboxylic acid | 500 mg | COC1=CC=C(C=C1)C1C(NC(S1)=O)C(=O)O | C11H11NO4S
product | N-(2-Nitrooxyethyl)-5-(4-methoxyphenyl)-2- oxothiazolidine-4-carboxamide | [N+](=O)([O-])OCCNC(=O)C1NC(SC1C1=CC=C(C=C1)OC)=O | C13H15N3O6S
